US04806151
According to a preferred form of realization of the process of the present invention n-propyl-4-diallylamino-3,5-dinitro-benzoate may be prepared by reacting 1 mole of 4-chloro-3,5-dinitro-benzoic acid with 1.25 moles of n-propanol at a temperature between 85° C. and 90° C., in the presence of a sulfuric acid catalyst, whereby the water formed is removed by azeotropic distillation with benzene. The distillation of water having been completed (5-7 hours) the reaction mixture, is cooled and the n-propyl-4-chloro-3,5-dinitro-benzoate is isolated. This compound is reacted with a 1.1 molar amount of diallyl amine at a temperature between 70° C. and 80° C., in an aqueous melt in the presence of 0.1 mole of 75% phosphoric acid and 1.05 moles of a 10% sodium hydroxide solution as acid binding agent. The reaction mixture is allowed to sedimentate, the organic phase is poured into water and the crystalline n-propyl-4-diallylamino-3,5-dinitro-benzoate is isolated.

reactant | n-propyl-4-diallylamino-3,5-dinitro-benzoate | C(CC)OC(C1=CC(=C(C(=C1)[N+](=O)[O-])N(CC=C)CC=C)[N+](=O)[O-])=O | C16H19N3O6
reactant | 4-chloro-3,5-dinitro-benzoic acid | 1 mole | ClC1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H3ClN2O6
reactant | n-propanol | 1.25 moles | C(CC)O | C3H8O
catalyst | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | n-propyl-4-chloro-3,5-dinitro-benzoate | C(CC)OC(C1=CC(=C(C(=C1)[N+](=O)[O-])Cl)[N+](=O)[O-])=O | C10H9ClN2O6
